US04510307
In a mixture of 18.1 ml of chlorosulfonic acid and 5.4 g of phosphorus pentachloride was gradually added 8.6 g of 4-piperidinoquinazoline, and the mixture was heated at 150° C. for 20 hours. The reaction solution was poured into 200 g of a mixture of ice and water and extracted with chloroform. The chloroform layer was washed with water, then with a saturated sodium bicarbonate solution, and dried with Glauber's salt. The chloroform layer thus obtained was condensed under reduced pressure to give 6.0 g of 4-piperidino-6-quinazolinesulfonyl chloride as an oily substance.

reactant | 4-piperidinoquinazoline | 8.6 g | N1(CCCCC1)C1=NC=NC2=CC=CC=C12 | C13H15N3
reactant | water | O | H2O
reactant | chlorosulfonic acid | 18.1 ml | ClS(=O)(=O)O | ClHO3S
solvent | phosphorus pentachloride | 5.4 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
product | 4-piperidino-6-quinazolinesulfonyl chloride | 6.0 g | N1(CCCCC1)C1=NC=NC2=CC=C(C=C12)S(=O)(=O)Cl | C13H14ClN3O2S
